US07446216B2
7-Bromo-2-isopropyl-1H-indene
To a solution of 73.4 g (0.29 mol) of 4-bromo-2-isopropylindan-1-one in 530 ml of a mixture of THF-methanol (2:1, vol.), 22.0 g (0.58 mol) of NaBH4 was added in small portions while vigorously stirring for 2 h at 0° C. This mixture was stirred for 12 h at room temperature and then added to 600 ml of cold water. The organic layer was separated, the aqueous layer was extracted with 3×300 ml of methyl-tert-butyl ether. The combined organic fractions were dried over K2CO3 and then evaporated to dryness. The residue was dissolved in 1500 ml of toluene, and 2.0 g of p-TosOH was added. The resulting solution was refluxed for 2 h using a Dean-Stark trap to remove the water formed, and then it was passed through a short Silica Gel 60 column (40-63 um, d 100 mm, l 80 mm, eluent: hexanes). This column was additionally washed with 250 ml of toluene. The combined organic fractions were evaporated to dryness. The product was isolated by vacuum distillation (bp 128-132° C./4 mm Hg). Yield 57.8 g (84%).

reactant | 4-bromo-2-isopropylindan-1-one | 0.29 mol, 73.4 g | BrC1=C2CC(C(C2=CC=C1)=O)C(C)C | C12H13BrO
reactant | THF methanol | C1CCOC1.CO
reactant | NaBH4 | 0.58 mol, 22.0 g | [BH4-].[Na+]
solvent | water | 600 ml | O | H2O
product | 7-Bromo-2-isopropyl-1H-indene | BrC=1C=CC=C2C=C(CC12)C(C)C | C12H13Br
